US09260425B2
Following the Suzuki coupling procedure of Example 159, 5-bromo-3-iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine and tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate were reacted and the product was consequently reacted by the Suzuki coupling procedure of Example 10 with 3-pyridineboronic acid pinacol ester. The product mixture was purified via silica gel chromatography using a gradient of methanol in DCM to afford 230 mg (75%) of tert-Butyl 4-(4-(5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate over two steps. ESI MS m/z 530.2 (M+1).

reactant | 5-bromo-3-iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | BrC=1C=C2C(=CN1)N(N=C2I)C2OCCCC2 | C11H11BrIN3O
reactant | tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
reactant | 3-pyridineboronic acid pinacol ester | N1=CC(=CC=C1)B1OC(C)(C)C(C)(C)O1 | C11H16BNO2
product | tert-Butyl 4-(4-(5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 230 mg, 75% | N1=CC(=CC=C1)C=1C=C2C(=CN1)N(N=C2C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C)C2OCCCC2 | C29H35N7O3
